US07012077B2
A solution of 1.08 g (3.68 mmol) of trans-4-{4-[(6-Chloro-pyridazin-3-yl)-methyl-amino]-cyclohexyl}-but-2-yn-1-ol in 30 ml CH2Cl2 was treated at 0° C. with 0.31 ml (4.04 mmol) methanesulfonylchloride and 0.64 ml (5.51 mmol) 2,6-lutidine. The reaction was stirred for 46 h at room temperature, water (4 ml) was added and stirred for 5 min. After extraction with aqueous saturated NaHCO3/Et2O(3×), the organic phase was washed with aqueous 10% NaCl, dried over Na2SO4 and evaporated to yield 1.45 g of crude trans-Methanesulfonic acid 4-{4-[(6-chloro-pyridazin-3-yl)-methyl-amino]-cyclohexyl}-but-2-ynyl ester, MS: 372 (MH+, 1Cl).

reactant | trans-4-{4-[(6-Chloro-pyridazin-3-yl)-methyl-amino]-cyclohexyl}-but-2-yn-1-ol | 3.68 mmol, 1.08 g | ClC1=CC=C(N=N1)N([C@@H]1CC[C@H](CC1)CC#CCO)C | C15H20ClN3O
reactant | methanesulfonylchloride | 4.04 mmol, 0.31 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | 2,6-lutidine | 5.51 mmol, 0.64 ml | N1=C(C=CC=C1C)C | C7H9N
reactant | water | 4 ml | O | H2O
solvent | CH2Cl2 | 30 ml | C(Cl)Cl | CH2Cl2
product | trans-Methanesulfonic acid 4-{4-[(6-chloro-pyridazin-3-yl)-methyl-amino]-cyclohexyl}-but-2-ynyl ester | 1.45 g | ClC1=CC=C(N=N1)N([C@@H]1CC[C@H](CC1)CC#CCOS(=O)(=O)C)C | C16H22ClN3O3S
